US04012392
12-Methyl-1,4-dioxa-12-azadispiro [4.0.4.4] tetradecan-11-one
A solution of 26 g of 7-methyl-7-azaspiro [4.5] decane-6,10-dione in 150 ml of ethylene glycol, containing 100 mg of p-toluenesulphonic acid, is distilled at atmospheric pressure until 110 ml of distillate has been collected. The distillation residue is then shaken with ether and dilute aqueous ammonia. The aqueous layer is extracted with chloroform and the combined organic solutions are dried and evaporated in vacuo. The residue is recrystallized from ether. Melting point 84 -85° C. Yield 56%.

reactant | 7-methyl-7-azaspiro [4.5] decane-6,10-dione | 26 g | CN1C(C2(CCCC2)C(CC1)=O)=O | C10H15NO2
reactant | p-toluenesulphonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethylene glycol | 150 ml | C(CO)O | C2H6O2
product | 12-Methyl-1,4-dioxa-12-azadispiro [4.0.4.4] tetradecan-11-one | Yield 56% | CN1C(C2(C3(OCCO3)CC1)CCCC2)=O | C12H19NO3
